US07297704B2
Benzyl [(3R)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl]carbamate
To a solution of (3R)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid (0.60 g, 2.57 mmol) in anhydrous 1,4-dioxane (20 mL) was added diphenylphosphorylazide (0.7 mL, 3.24 mmol), triethylamine (0.39 mL, 2.83 mmol), and 4 A molecular sieves. After stirring at room temperature for 2 h, benzyl alcohol (0.8 mL, 7.71 mmol) was added and the reaction was heated at 70° C. for 2 h. After cooling, the mixture was filtered and the filtrate was concentrated in vacuo. Purification by chromatography on silica gel afforded 340 mg of the title compound as a colorless oil.

reactant | (3R)-6-Fluoro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid | 2.57 mmol, 0.60 g | FC=1C=C2C=3C[C@@H](CCC3NC2=CC1)C(=O)O | C13H12FNO2
reactant | diphenylphosphorylazide | 3.24 mmol, 0.7 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.83 mmol, 0.39 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 7.71 mmol, 0.8 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | Benzyl [(3R)-6-fluoro-2,3,4,9-tetrahydro-1H-carbazol-3-yl]carbamate | 340 mg | FC=1C=C2C=3C[C@@H](CCC3NC2=CC1)NC(OCC1=CC=CC=C1)=O | C20H19FN2O2
